US04239524
1,1,3-trimethyl-3-(5-butylsulfinyl-1,3,4-thiadiazole-2-yl)urea
To a solution of 300 g of 1,1,3-trimethyl-3-(5-butylthio-1,3,4-thiadiazol-2-yl) urea in 1.9 ltr glacial acetic acid there are added in drops at room temperature and with agitation 136 g of perhydrol. The temperature then rises to 28° C. After standing for 5 days, the perhydrol excess is destroyed with manganese dioxide, the glacial acetic acid is vacuum-distilled to a very large extent, and the residue taken up in methylene chloride, is treated twice with active carbon, the solvent distilled, and the remaining oil dried in high vacuum.

reactant | 1,1,3-trimethyl-3-(5-butylthio-1,3,4-thiadiazol-2-yl) urea | 300 g | CN(C(=O)N(C=1SC(=NN1)SCCCC)C)C | C10H18N4OS2
reactant | perhydrol | 136 g | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1,3-trimethyl-3-(5-butylsulfinyl-1,3,4-thiadiazole-2-yl)urea | CN(C(=O)N(C=1SC(=NN1)S(=O)CCCC)C)C | C10H18N4O2S2
